US04367234
4-Methylanisole (12.2 g., 0.1 mole) in 300 ml. of methylene chloride was cooled to 0° C. Titanium tetrachloride (3.8 g., 0.2 mole) was added followed by the dropwise addition of 1,1-dichloromethyl methyl ether (13.8 g., 0.12 mole) over 3 minutes. After stirring for 30 minutes at 0° C., the reaction mixture was poured into 600 ml. of water. The aqueous phase was extracted with two further portions of methylene chloride. The combined organic phase/extracts was washed with brine, dried over anhydrous magnesium sulfate and evaporated to yield 2-methoxy-5-methylbenzaldehyde as an oil [15 g., 100%; ir (CH2Cl2) 1678, 1608, 1488 cm-1 ].

reactant | 4-Methylanisole | 0.1 mole, 12.2 g | CC1=CC=C(C=C1)OC | C8H10O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 1,1-dichloromethyl methyl ether | 0.12 mole, 13.8 g | COC(Cl)Cl | C2H4Cl2O
catalyst | Titanium tetrachloride | 0.2 mole, 3.8 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | O | H2O
product | 2-methoxy-5-methylbenzaldehyde | COC1=C(C=O)C=C(C=C1)C | C9H10O2
